US05750531
Step 4: 4-(2-Methyl-4-fluorophenylamino)-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-5,6,7,8-tetrahydroquinazoline hydrochloride
After 4-fluoro-2-methylaniline(0.3 ml, 2.7 mmol) was added to a mixture solution of 2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloro-5,6,7,8-tetrahydroquinazoline(0.35 g, 1.1 mmol) and dimethylformamide(5 ml), 0.15 g of the titled compound was obtained in accordance with the same procedure as in Step 4 of Example 57.

reactant | 4-fluoro-2-methylaniline | 2.7 mmol, 0.3 ml | FC1=CC(=C(N)C=C1)C | C7H8FN
reactant | 2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-4-chloro-5,6,7,8-tetrahydroquinazoline | 1.1 mmol, 0.35 g | CC1N(CCC2=CC=CC=C12)C1=NC=2CCCCC2C(=N1)Cl | C18H20ClN3
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 4-(2-Methyl-4-fluorophenylamino)-2-(1-methyl-1,2,3,4-tetrahydroisoquinolin-2-yl)-5,6,7,8-tetrahydroquinazoline hydrochloride | 0.15 g, Yield: 31% | Cl.CC1=C(C=CC(=C1)F)NC1=NC(=NC=2CCCCC12)N1C(C2=CC=CC=C2CC1)C | InChI=1S/C25H27FN4.ClH/c1-16-15-19(26)11-12-22(16)27-24-21-9-5-6-10-23(21)28-25(29-24)30-14-13-18-7-3-4-8-20(18)17(30)2;/h3-4,7-8,11-12,15,17H,5-6,9-10,13-14H2,1-2H3,(H,27,28,29);1H
